US07951973B2
Preparation of 2,6-dichloro-N-[2-(4-chlorophenyl)-1-methylethyl]benzamide, (Compound 8)
100 mg of 1-(4-chlorophenyl)propan-2-amine hydrochloride (0.728 mmol) and 0.10 ml of triethylamine (0.728 mmol) are diluted in 3 ml of dichloromethane at room temperature, 152 mg of 2,6-dichlorobenzoyl chloride (0.728 mmol) are added to the reaction mixture. After 24 hours of stirring, 20 ml of DCM an 10 ml of saturated solution of ammonium chloride are added to the reaction mixture.

reactant | 1-(4-chlorophenyl)propan-2-amine hydrochloride | 0.728 mmol, 100 mg | Cl.ClC1=CC=C(C=C1)CC(C)N
reactant | triethylamine | 0.728 mmol, 0.10 ml | C(C)N(CC)CC | C6H15N
reactant | 2,6-dichlorobenzoyl chloride | 0.728 mmol, 152 mg | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | DCM | 20 ml | C(Cl)Cl | CH2Cl2
product | 2,6-dichloro-N-[2-(4-chlorophenyl)-1-methylethyl]benzamide | ClC1=C(C(=O)NC(CC2=CC=C(C=C2)Cl)C)C(=CC=C1)Cl | C16H14Cl3NO
